US06242498B1
1A 3-Bromo-2,6-dimethylbenzonitrile
A mixture of 2,6-dimethylbenzonitrile (5.0 g, 38.0 mmol), bromine (1.9 ml, 38.0 mmol) and chloroform (10 ml) is stirred at room temperature for 24 hours and subsequently heated to 60° C. for 6 hours. Upon cooling down to 0° C., 10 g of AlCl3 are added and the mixture is stirred for 4 hours at 0° C. The reaction mixture is poured into water and extracted with toluene. The organic phase is separated and concentrated and the residue is purified by column chromatography yielding the pure product as brown crystals, 6.2 g, mp. 60° C.

reactant | 2,6-dimethylbenzonitrile | 38.0 mmol, 5.0 g | CC1=C(C#N)C(=CC=C1)C | C9H9N
reactant | bromine | 38.0 mmol, 1.9 ml | BrBr | Br2
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | AlCl3 | 10 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | water | O | H2O
product | 3-Bromo-2,6-dimethylbenzonitrile | BrC=1C(=C(C#N)C(=CC1)C)C | C9H8BrN
